** Name: SymmetricalOpAmp23

.MACRO SymmetricalOpAmp23 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=10e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=159e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=19e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=3e-6 W=337e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=209e-6
mNormalTransistorNmos10 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mNormalTransistorNmos11 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=218e-6
mNormalTransistorNmos12 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=209e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=442e-6
mNormalTransistorNmos14 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=159e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=531e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=531e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=177e-6
mNormalTransistorPmos18 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos19 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp23

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 6.31501 mW
** Area: 10256 (mu_m)^2
** Transit frequency: 42.2331 MHz
** Transit frequency with error factor: 42.2326 MHz
** Slew rate: 42.1967 V/mu_s
** Phase margin: 68.182°
** CMRR: 144 dB
** negPSRR: 57 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.580001 V
** VcmMax: 4.24001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 5.03601 muA
** NormalTransistorNmos: 335.062 muA
** NormalTransistorPmos: -47.6419 muA
** DiodeTransistorPmos: -218.219 muA
** DiodeTransistorPmos: -218.219 muA
** NormalTransistorNmos: 436.439 muA
** NormalTransistorNmos: 218.22 muA
** NormalTransistorNmos: 218.22 muA
** NormalTransistorNmos: 214.44 muA
** NormalTransistorNmos: 214.439 muA
** NormalTransistorPmos: -214.439 muA
** NormalTransistorPmos: -214.438 muA
** DiodeTransistorNmos: 214.44 muA
** NormalTransistorPmos: -214.439 muA
** NormalTransistorPmos: -214.438 muA
** DiodeTransistorNmos: 47.6411 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -5.03699 muA
** DiodeTransistorPmos: -335.061 muA


** Expected Voltages: 
** ibias: 0.593001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 0.803001  V
** inputVoltageBiasXXpXX0: 4.04901  V
** out: 2.5  V
** outFirstStage: 3.83601  V
** outVoltageBiasXXnXX1: 0.989001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.93801  V
** innerStageBias: 0.398001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END