** Name: SymmetricalOpAmp24

.MACRO SymmetricalOpAmp24 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=205e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=3e-6 W=405e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=3e-6 W=152e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=358e-6
mNormalTransistorNmos9 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=338e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=358e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=170e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=205e-6
mNormalTransistorPmos13 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=41e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=41e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp24

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 4.91001 mW
** Area: 11515 (mu_m)^2
** Transit frequency: 45.1981 MHz
** Transit frequency with error factor: 45.1986 MHz
** Slew rate: 50.9701 V/mu_s
** Phase margin: 60.7336°
** CMRR: 143 dB
** negPSRR: 56 dB
** posPSRR: 63 dB
** VoutMax: 4.25 V
** VoutMin: 0.780001 V
** VcmMax: 4.25 V
** VcmMin: 0.810001 V


** Expected Currents: 
** NormalTransistorNmos: 213.221 muA
** DiodeTransistorPmos: -119.151 muA
** DiodeTransistorPmos: -119.151 muA
** NormalTransistorNmos: 238.304 muA
** NormalTransistorNmos: 119.152 muA
** NormalTransistorNmos: 119.152 muA
** NormalTransistorNmos: 260.197 muA
** NormalTransistorNmos: 260.196 muA
** NormalTransistorPmos: -260.196 muA
** NormalTransistorPmos: -260.197 muA
** DiodeTransistorNmos: 260.197 muA
** DiodeTransistorNmos: 260.196 muA
** NormalTransistorPmos: -260.196 muA
** NormalTransistorPmos: -260.197 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -213.22 muA


** Expected Voltages: 
** ibias: 0.629001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.617001  V
** inSourceTransconductanceComplementarySecondStage: 3.84101  V
** innerComplementarySecondStage: 1.17301  V
** out: 2.5  V
** outFirstStage: 3.84101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.91701  V
** innerStageBias: 0.603001  V
** innerTransconductance: 4.40501  V
** inner: 4.40501  V


.END