** Name: SymmetricalOpAmp27

.MACRO SymmetricalOpAmp27 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=17e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=138e-6
mDiodeTransistorPmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=54e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=54e-6
mNormalTransistorNmos6 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=5e-6 W=174e-6
mNormalTransistorNmos7 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=50e-6
mNormalTransistorNmos8 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=138e-6
mNormalTransistorNmos9 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=147e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=50e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=5e-6 W=600e-6
mNormalTransistorPmos12 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos13 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos14 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=84e-6
mNormalTransistorPmos15 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=84e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp27

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 5.14901 mW
** Area: 7342 (mu_m)^2
** Transit frequency: 42.2231 MHz
** Transit frequency with error factor: 42.2227 MHz
** Slew rate: 55.4217 V/mu_s
** Phase margin: 64.7443°
** CMRR: 145 dB
** negPSRR: 56 dB
** posPSRR: 59 dB
** VoutMax: 4.41001 V
** VoutMin: 0.930001 V
** VcmMax: 4.41001 V
** VcmMin: 0.800001 V


** Expected Currents: 
** NormalTransistorNmos: 101.534 muA
** DiodeTransistorPmos: -177.488 muA
** DiodeTransistorPmos: -177.488 muA
** NormalTransistorNmos: 354.976 muA
** NormalTransistorNmos: 177.489 muA
** NormalTransistorNmos: 177.489 muA
** NormalTransistorNmos: 281.659 muA
** DiodeTransistorNmos: 281.658 muA
** NormalTransistorPmos: -281.658 muA
** NormalTransistorPmos: -281.657 muA
** NormalTransistorNmos: 281.659 muA
** NormalTransistorPmos: -281.658 muA
** NormalTransistorPmos: -281.657 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -101.533 muA


** Expected Voltages: 
** ibias: 0.591001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.00501  V
** inStageBiasComplementarySecondStage: 0.784001  V
** innerComplementarySecondStage: 1.33901  V
** out: 2.5  V
** outFirstStage: 4.00501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.89001  V
** innerTransconductance: 4.41201  V
** inner: 4.41201  V


.END