** Name: SymmetricalOpAmp28

.MACRO SymmetricalOpAmp28 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=22e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=123e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=4e-6 W=123e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=18e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=18e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=5e-6 W=225e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=116e-6
mNormalTransistorNmos9 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=4e-6 W=123e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=116e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=5e-6 W=505e-6
mNormalTransistorNmos12 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=123e-6
mNormalTransistorPmos13 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=572e-6
mNormalTransistorPmos14 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=572e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp28

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 4.01201 mW
** Area: 7454 (mu_m)^2
** Transit frequency: 46.8811 MHz
** Transit frequency with error factor: 46.8808 MHz
** Slew rate: 45.6264 V/mu_s
** Phase margin: 61.8795°
** CMRR: 142 dB
** negPSRR: 57 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 1 V
** VcmMax: 4.24001 V
** VcmMin: 0.720001 V


** Expected Currents: 
** NormalTransistorNmos: 101.534 muA
** DiodeTransistorPmos: -113.837 muA
** DiodeTransistorPmos: -113.837 muA
** NormalTransistorNmos: 227.676 muA
** NormalTransistorNmos: 113.838 muA
** NormalTransistorNmos: 113.838 muA
** NormalTransistorNmos: 231.602 muA
** DiodeTransistorNmos: 231.601 muA
** NormalTransistorPmos: -231.601 muA
** NormalTransistorPmos: -231.6 muA
** DiodeTransistorNmos: 231.602 muA
** NormalTransistorNmos: 231.601 muA
** NormalTransistorPmos: -231.601 muA
** NormalTransistorPmos: -231.6 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -101.533 muA


** Expected Voltages: 
** ibias: 0.569001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.702001  V
** inSourceTransconductanceComplementarySecondStage: 3.83901  V
** innerComplementarySecondStage: 1.40401  V
** out: 2.5  V
** outFirstStage: 3.83901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94201  V
** innerTransconductance: 4.40001  V
** inner: 0.700001  V
** inner: 4.40001  V


.END